US07989657B2
2-Fluoro-6-(4-phenoxy-benzoylamino)-benzoic acid
In analogy to example 1,2-Fluoro-6-(4-phenoxy-benzoylamino)-benzoic acid was prepared from 2-amino-6-fluoro-benzoic acid and 4-phenoxy-benzoyl chloride [1623-95-6]. MS (m/e): 350.1 (M−H−, 100%).

reactant | 2-amino-6-fluoro-benzoic acid | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | 4-phenoxy-benzoyl chloride | O(C1=CC=CC=C1)C1=CC=C(C(=O)Cl)C=C1 | C13H9ClO2
product | 2-Fluoro-6-(4-phenoxy-benzoylamino)-benzoic acid | FC1=C(C(=O)O)C(=CC=C1)NC(C1=CC=C(C=C1)OC1=CC=CC=C1)=O | C20H14FNO4
